US08686184B2
(2R,3R)-4-(2-Chlorophenyl)-2-hydroxy-3-[4-(3-methyl-5-oxo-4,5-dihydro-pyrazol-1-yl)-benzoylamino]-butyric acid ethyl ester (R1═—OCH2CH3)
4-(3-Methyl-5-oxo-2-pyrazolin-1-yl)benzoic acid (100 mg, 0.6 mmol, 1.0 eq.) was combined with DMF (1000 μL) and HATU (250 mg, 0.7 mmol, 1.2 eq.) and stirred at room temperature for 15 minutes. (2R,3R)-3-Amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid ethyl ester (TFA salt, 200 mg, 0.6 mmol, 1.0 eq.) in DIPEA (200 μL, 2.0 eq.) and DMF (1000 μL) was then added and the resulting mixture was stirred overnight at room temperature. Excess solvent was removed and the product was dissolved in AcOH/H2O (50%) and purified by preparative LC (1″ column; gradient 2-50% MeCN/H2O, 0.05% TFA, over 80 minutes; 15 mL/min flow; UV 280 nm). The fractions were collected, frozen, and lyophilized to yield the title compound (100 mg, 98% purity). MS m/z [M+H]+ calc'd for C23H24ClN3O5, 458.14. found 458.2.

reactant | 4-(3-Methyl-5-oxo-2-pyrazolin-1-yl)benzoic acid | 0.6 mmol, 100 mg, 1.0 eq. | CC1=NN(C(C1)=O)C1=CC=C(C(=O)O)C=C1 | C11H10N2O3
reactant | HATU | 0.7 mmol, 250 mg, 1.2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3R)-3-Amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid ethyl ester | 0.6 mmol, 200 mg, 1.0 eq. | C(C)OC([C@@H]([C@@H](CC1=C(C=CC=C1)Cl)N)O)=O | C12H16ClNO3
reactant | DIPEA | 200 μL, 2.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1000 μL | CN(C)C=O | C3H7NO
solvent | DMF | 1000 μL | CN(C)C=O | C3H7NO
product | (2R,3R)-4-(2-Chlorophenyl)-2-hydroxy-3-[4-(3-methyl-5-oxo-4,5-dihydro-pyrazol-1-yl)-benzoylamino]-butyric acid ethyl ester | 100 mg, 98% | C(C)OC([C@@H]([C@@H](CC1=C(C=CC=C1)Cl)NC(C1=CC=C(C=C1)N1N=C(CC1=O)C)=O)O)=O | C23H24ClN3O5
